US05981537
Preparation of 4-amino-6-hydroxy-2-(2,6-difluorophenylmethylthio)pyrimidine; (Cpd #1)
4-Amino-6-hydroxy-2-mercaptopyrimdine monohydrate (1.61 g, 10.0 mmol) is suspended in 50% ethanol (10 ml), then treated with solid sodium hydroxide (440 mg, 11.0 mmol) and stirred until the solid dissolved. 2,6-Difluoro-benzyl bromide (2.17 g, 10.5 mmol) is added and the reaction heated to reflux for 1.5 hrs. After cooling to 22° C., the solid is collected, washed with water, then air dried. The title compound is recrystallized from ethanol, mp 245-246° C.

reactant | 4-Amino-6-hydroxy-2-mercaptopyrimdine monohydrate | 10.0 mmol, 1.61 g | O.NC1=NC(=NC(=C1)O)S
reactant | sodium hydroxide | 11.0 mmol, 440 mg | [OH-].[Na+]
reactant | 2,6-Difluoro-benzyl bromide | 10.5 mmol, 2.17 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-amino-6-hydroxy-2-(2,6-difluorophenylmethylthio)pyrimidine | NC1=NC(=NC(=C1)O)SCC1=C(C=CC=C1F)F | C11H9F2N3OS
